US07241812B2
1-(2-(4-nitrophenoxy)ethyl)biphenyl
2-biphenyl ethanol (1 g, 5 mmol), 4-nitrophenol (834 mg, 6 mmol), and triphenylphosphine (1.59 g, 6 mmol) was dissolved in 20 mL dichloromethane. The solution was chilled in an ice-water bath prior to the addition of diethylazodicarboxylate (949 μl, 6 mmol). The reaction was then stirred overnight, and the ice-water bath slowly warmed to room temperature. Crude product was purified by flash chromatography to yield 640 mg crystalline solid. 1H NMR (400 MHz, DMSO-d6) δ 8.1 (d), 7.6 (m), 7.47–7.41 (m), 7.34 (m), 7.17 (m), 4.39 (t, 2H), 3.13 (t, 2H).

reactant | 2-biphenyl ethanol | 5 mmol, 1 g | C=1(C(=CC=CC1)CCO)C1=CC=CC=C1 | C14H14O
reactant | 4-nitrophenol | 6 mmol, 834 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triphenylphosphine | 6 mmol, 1.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 6 mmol, 949 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(2-(4-nitrophenoxy)ethyl)biphenyl | 640 mg | [N+](=O)([O-])C1=CC=C(OCCC2(CC=CC=C2)C2=CC=CC=C2)C=C1 | C20H19NO3
